US05576322
2-Chloro-4,6,7,8-tetramethoxyquinazoline
5.00 g (17.3 mmol) of 2,4-dichloro-6,7,8-trimethoxyquinazoline was suspended in 100 ml of methanol, followed by the gradual addition of 1.5 g of sodium hydride. The obtained mixture was heated under reflux. After several hours, the reaction mixture was concentrated under a reduced pressure, followed by the addition of water. The crystal thus precipitated was recovered by filtration, washed with water and air-dried to give 4.80 g of the title compound as a pale-pink crystal.

reactant | 2,4-dichloro-6,7,8-trimethoxyquinazoline | 17.3 mmol, 5.00 g | ClC1=NC2=C(C(=C(C=C2C(=N1)Cl)OC)OC)OC | C11H10Cl2N2O3
reactant | sodium hydride | 1.5 g | [H-].[Na+]
reactant | methanol | 100 ml | CO | CH4O
product | 2-Chloro-4,6,7,8-tetramethoxyquinazoline | 4.80 g, yield(%); 97 | ClC1=NC2=C(C(=C(C=C2C(=N1)OC)OC)OC)OC | C12H13ClN2O4
